US07662771B2
Add sodium hydride (900 mg, 18 mmol, 60% suspension in mineral oil) to a suspension of 7-[3-(2-hydroxyphenyl)pyrazol-1-yl]heptanoic acid ethyl ester (4.73 g, 15 mmol) and iodomethane (1.1 mL, 18 mmol) in THF (70 mL) at 0° C. under nitrogen and warm the mixture to room temperature to stir for 12 hours. Remove the solvent under reduced pressure, dilute the residue with ethyl acetate (150 mL), wash with water (100 mL), and dry over sodium sulfate. Remove the solvent under reduced pressure and purify the residue by flash column chromatography on silica gel, eluting with hexanes/ethyl acetate (9:1), to provide 7-[3-(2-Methoxyphenyl)pyrazol-1-yl]heptanoic acid ethyl ester (3.75 g, 76%).

reactant | sodium hydride | 18 mmol, 900 mg | [H-].[Na+]
reactant | 7-[3-(2-hydroxyphenyl)pyrazol-1-yl]heptanoic acid ethyl ester | 15 mmol, 4.73 g | C(C)OC(CCCCCCN1N=C(C=C1)C1=C(C=CC=C1)O)=O | C18H24N2O3
reactant | iodomethane | 18 mmol, 1.1 mL | IC | CH3I
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 7-[3-(2-Methoxyphenyl)pyrazol-1-yl]heptanoic acid ethyl ester | 3.75 g, 76% | C(C)OC(CCCCCCN1N=C(C=C1)C1=C(C=CC=C1)OC)=O | C19H26N2O3
